US05750531
Step 2: 6-Ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine
In accordance with the same procedure as in Step 2 of Example 57, except that 6-ethyl-2-chloro-4-hydroxypyrimidine (7.0 g, 37.5 mmol) prepared in the above Step 1 and 1-methyl-1,2,3,4-tetrahydroisoquinoline(11.04 g, 75 mmol) were used as starting materials, 8.1 g of the titled compound was prepared. (Yield: 80%)

reactant | 6-ethyl-2-chloro-4-hydroxypyrimidine | 37.5 mmol, 7.0 g | C(C)C1=CC(=NC(=N1)Cl)O | C6H7ClN2O
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 75 mmol, 11.04 g | CC1NCCC2=CC=CC=C12 | C10H13N
product | 6-Ethyl-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-hydroxypyrimidine | 8.1 g, Yield: 80% | C(C)C1=CC(=NC(=N1)N1C(C2=CC=CC=C2CC1)C)O | C16H19N3O
